US08227500B2
5-(3-Cyano-4-phenylpyrrole-1-yl)-2-methoxymethoxy-benzoic acid ethyl ester
A mixture of 4-phenyl-1H-pyrrole-3-carbonitrile (0.2 g), 5-bromo-2-methoxymethoxy-benzoic acid ethyl ester (0.36 g), copper iodide (0.023 g), N,N-dimethylgrycine (0.025 g), cesium carbonate (0.39 g) and dimethylsulfoxide (3 mL) was stirred at 75° C. for 12 hours. After cooling to ambient temperature, the insoluble material was removed by filtration through Celite pad, and this filtrate was concentrated. This obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=10/90−66/34) to give the title compound (0.27 g).

reactant | 4-phenyl-1H-pyrrole-3-carbonitrile | 0.2 g | C1(=CC=CC=C1)C=1C(=CNC1)C#N | C11H8N2
reactant | 5-bromo-2-methoxymethoxy-benzoic acid ethyl ester | 0.36 g | C(C)OC(C1=C(C=CC(=C1)Br)OCOC)=O | C11H13BrO4
reactant | cesium carbonate | 0.39 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper iodide | 0.023 g | [Cu](I)I
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 5-(3-Cyano-4-phenylpyrrole-1-yl)-2-methoxymethoxy-benzoic acid ethyl ester | 0.27 g | C(C)OC(C1=C(C=CC(=C1)N1C=C(C(=C1)C1=CC=CC=C1)C#N)OCOC)=O | C22H20N2O4
